*$
*//-----------------------------------------------------------------------//
*//   Part        : HHXJ500ARA181MJC5G
*//   Date        : 2023/12/12
*//   Simulator   : P-Spice
*//   Temperature : 20deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT  HHXJ500ARA181MJC5G_20deg-C 1 2

C1 4 2 1.14e-04
C2 5 2 2.12e-05
C3 6 2 1.75e-05
R1 3 4 1.18e-02
R2 4 5 1.85e-01
R3 5 6 5.24e+00
L1 1 3 5.20e-09
.ENDS
*$